US04648995
2-(3α,12α-Diformyloxy-7-oxo-5β-cholan-24-amido)-2-methyl-1-propanol
To a stirred solution of 3α,12α-diformyloxy-7-oxo-5β-cholan-24-oic acid (19 g) in 400 ml of ethyl acetate were added 8.0 ml of triethylamine, a solution of 6.0 ml of 2-amino-2-methyl-1-propanol in 50 ml of ethyl acetate, and 15 g of N-ethoxycarbonyl-2-ethoxy-1,2-dihydroquinoline and the mixture was refluxed for 5 hrs. After cooling to room temperature, the reaction mixture was washed successively with water (50 ml×1), 1N HCl solution (50 ml×4), water (50 ml×1), 5% NaHCO3 solution (50 ml×2), and then water to neutrality (50 ml×3). The organic layer was dried over anhydrous Na2SO4, filtered, and evaporated in vacuo to give an oily residue (21.5 g) which could not be crystallized. PMR (δ ppm): 0.66 (3H, s, 18--CH3), 0.85 (3H, d, J=6 Hz, 21--CH3), 1.08 (3H, s, 19--CH3), 1.53 (6H, s, --C(CH3)2 --), 3.88 (2H, s, --CH2OH), 4.71 (1H, m, 3β--H), 5.22 (1H, m, 12β--H), 7.58 (1H, s, --NH--), 8.03 and 8.18 (2H, s, 2×--COH).

reactant | 3α,12α-diformyloxy-7-oxo-5β-cholan-24-oic acid | 19 g | C(=O)O[C@H]1C[C@H]2CC([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)O)C)[C@]4([C@H](C[C@@H]3[C@]2(CC1)C)OC=O)C)=O | C26H38O7
reactant | triethylamine | 8.0 ml | C(C)N(CC)CC | C6H15N
reactant | 2-amino-2-methyl-1-propanol | 6.0 ml | NC(CO)(C)C | C4H11NO
reactant | N-ethoxycarbonyl-2-ethoxy-1,2-dihydroquinoline | 15 g | C(C)OC(=O)N1C(C=CC2=CC=CC=C12)OCC | C14H17NO3
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-(3α,12α-Diformyloxy-7-oxo-5β-cholan-24-amido)-2-methyl-1-propanol | 21.5 g | C(=O)O[C@H]1C[C@H]2CC([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)NC(CO)(C)C)C)[C@]4([C@H](C[C@@H]3[C@]2(CC1)C)OC=O)C)=O | C30H47NO7
